US07678795B2
3-(1-tert-Butyl-5-methyl-1H-pyrazol-4-yl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine
yellow crystalline solid. MS (ESI): 285.1 (MH+). Prepared from 4,4-dimethyl-cyclopentane-1,2-dione, [2-(1-tert-Butyl-5-methyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 4,4-dimethyl-cyclopentane-1,2-dione | CC1(CC(C(C1)=O)=O)C | C7H10O2
reactant | [2-(1-tert-Butyl-5-methyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C=1C=NN(C1C)C(C)(C)C | C12H21N2O4P
reactant | hydrazine monohydrate | O.NN
product | 3-(1-tert-Butyl-5-methyl-1H-pyrazol-4-yl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine | C(C)(C)(C)N1N=CC(=C1C)C1=CC2=C(N=N1)CC(C2)(C)C | C17H24N4
